US04395551
37.7 g 2-pyridinamine was dissolved in about 250 g polyphosphoric acid, at 40°-50°, using a mechanically driven stirrer. To this mixture was added, dropwise, 54 ml ethyl 4-chloroacetoacetate. After the addition, the mixture was heated to about 125° for 1/2 hour. After cooling to about 50°, the mixture was poured into 1500 ml of ice water, and the mixture was extracted with an equal volume of chloroform. After drying and evaporation of chloroform, about 45 g 2-(chloromethyl)-4H-pyrido[1,2-a] pyrimidin-4-one (m.p. 171°-174°) was obtained.

reactant | 2-pyridinamine | 37.7 g | N1=C(C=CC=C1)N | C5H6N2
reactant | ethyl 4-chloroacetoacetate | 54 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
product | 2-(chloromethyl)-4H-pyrido[1,2-a] pyrimidin-4-one | about 45 g | ClCC=1N=C2N(C(C1)=O)C=CC=C2 | C9H7ClN2O
